US03968242
A mixture of 4'-acetylmethanesulfonanilide (21.5 g., 0.1 mole), 95% paraformaldehyde (10 g., 0.3 mole), pyrrolidine hydrochloride (10.8 g., 0.1 mole) in 150 ml. of ethanol containing 1 drop of concentrated hydrochloric acid is refluxed for a period of 4 hr. at steam bath temperature and then for an additional period of 8 hr. permitting the ethanol to evaporate. The resulting glassy residue is stirred with 300 ml. of hot acetone providing a crystalline material which is collected and crystallized from methanol-isopropyl alcohol to afford analytically pure 4'-[3-(1-PYRROLIDINYL)PROPIONYL]-METHANESULFONANILIDE HYDROCHLORIDE, m.p. 182.0°-183.0°C.

reactant | 4'-acetylmethanesulfonanilide | 0.1 mole, 21.5 g | C(C)(=O)C1=CC=C(NS(=O)(=O)C)C=C1 | C9H11NO3S
reactant | paraformaldehyde | 0.3 mole, 10 g | C=O | CH2O
reactant | pyrrolidine hydrochloride | 0.1 mole, 10.8 g | Cl.N1CCCC1
reactant | hydrochloric acid | Cl | ClH
catalyst | ethanol | 1 drop | C(C)O | C2H6O
solvent | ethanol | C(C)O | C2H6O
product | 4'-[3-(1-PYRROLIDINYL)PROPIONYL]-METHANESULFONANILIDE HYDROCHLORIDE | Cl.N1(CCCC1)CCC(=O)C1=CC=C(NS(=O)(=O)C)C=C1 | InChI=1S/C14H20N2O3S.ClH/c1-20(18,19)15-13-6-4-12(5-7-13)14(17)8-11-16-9-2-3-10-16;/h4-7,15H,2-3,8-11H2,1H3;1H
